US06825188B2
a) Methyl (S)-(−)-8-hydroxy-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate
A solution of methyl (S)-(−)-8-methoxy-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate (15.0 g, 0.057 mole) in CHCl3 (160 mL) was added dropwise over 30 min to a solution of boron tribromide (20.53 mL, 0.217 mole) in CHCl3 (160 mL) at −8° C. under argon, maintaining the temperature between −5° C. and 0° C. The reaction mixture was stirred at ca. −8° C. for 30 min and then MeOH (200 mL) was added, dropwise initially, maintaining the temperature at ca. 0° C. The reaction mixture was concentrated to give a viscous oil which was reconcentrated from MeOH (100 mL). The oil was dissolved in H2O/MeOH and a small amount of dark solid was removed by filtration. The filtrate was neutralized (to pH 7) with 50% sodium hydroxide, depositing a white solid. The suspension pH was adjusted to 4.5 by the addition of a small amount of acetic acid and the solid was collected and dried in vacuum to give afford the title compound (9.7 g, 68%). The product was assayed for chiral purity by HPLC: Chiralpak AS® column (4.6×50 mm), 100% EtOH mobile phase, 0.5 mL/min flow rate, uv detection at 215 nm; tR=7.5 min (S-enantiomer, 99%); tR=4.4 min (R-enantiomer, 1%).

reactant | methyl (S)-(−)-8-methoxy-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate | 0.057 mole, 15.0 g | COC1=CC2=C(C[C@H](C(NC2)=O)CC(=O)OC)C=C1 | C14H17NO4
reactant | boron tribromide | 0.217 mole, 20.53 mL | B(Br)(Br)Br | BBr3
reactant | MeOH | 200 mL | CO | CH4O
reactant | MeOH | 100 mL | CO | CH4O
solvent | CHCl3 | 160 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 160 mL | C(Cl)(Cl)Cl | CHCl3
solvent | H2O MeOH | O.CO
product | Methyl (S)-(−)-8-hydroxy-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate | 9.7 g, 68% | OC1=CC2=C(C[C@H](C(NC2)=O)CC(=O)OC)C=C1 | C13H15NO4
